US08802674B2
To a cooled solution of 1 g of methyl-3-hydroxy-4-nitrobenzoate, 3.31 g of cesium carbonate in 20 mL of DMF, was carefully added 1.5 equivalents of difluoroiodomethane. The reaction was allowed to warm to room temperature and followed by TLC. Upon completion of the reaction, the mixture was concentrated and purified by silica get chromatography to give 1.2 g of methyl 3-(difluoromethoxy)-4-nitrobenzoate.

reactant | methyl-3-hydroxy-4-nitrobenzoate | 1 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])O)=O | C8H7NO5
reactant | cesium carbonate | 3.31 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | difluoroiodomethane | 1.5 equivalents | FC(I)F | CHF2I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 3-(difluoromethoxy)-4-nitrobenzoate | 1.2 g | FC(OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-])F | C9H7F2NO5
